US07030116B2
4-Morpholin-4-yl-4-oxo-2-phenylmethanesulfonylmethyl-N-[(S)-1-(5-trifluoromethyl-1,2,4-oxadiazole-3-carbonyl)-propyl]-butyramide
It is similarly prepared according to general procedure given for Example 2 above but using 4-Morpholin-4-yl-4-oxo-2-phenylmethanesulfonylmethyl-butyric acid and (S)-2-Amino-1-(5-trifluoromethyl-1,2,4-oxadiazol-3-yl)-butan-1-ol; compound with trifluoroacetic acid.

reactant | 4-Morpholin-4-yl-4-oxo-2-phenylmethanesulfonylmethyl-butyric acid | N1(CCOCC1)C(CC(C(=O)O)CS(=O)(=O)CC1=CC=CC=C1)=O | C16H21NO6S
reactant | (S)-2-Amino-1-(5-trifluoromethyl-1,2,4-oxadiazol-3-yl)-butan-1-ol; compound with trifluoroacetic acid | FC(C(=O)O)(F)F.NC([C@H](O)C1=NOC(=N1)C(F)(F)F)CC
product | 4-Morpholin-4-yl-4-oxo-2-phenylmethanesulfonylmethyl-N-[(S)-1-(5-trifluoromethyl-1,2,4-oxadiazole-3-carbonyl)-propyl]-butyramide | N1(CCOCC1)C(CC(C(=O)N[C@@H](CC)C(=O)C1=NOC(=N1)C(F)(F)F)CS(=O)(=O)CC1=CC=CC=C1)=O | C23H27F3N4O7S
